US03989739
Preparation of 1,7,7-trimethylbicyclo[4.4.0]decan-3-one
A mixture of 19.6 g. of 1,7,7-trimethylbicyclo[4.4.0]decan-3-ol, prepared according to the description of Example 1, paragraph (b) 72 g. of methylethylketone, 50 ml. of toluene, 10.5 g. of aluminium isopropoxide and 2 g. of aluminum chloride was heated to the boil for 6 hours. After cooling the mixture was stirred with 200 ml. of 10% H2SO4 and extracted with toluene. The extract was treated as usual and gave by distillation 8.2 g. of the bicycloketone, b.p. 85°-90°/0.001 Torr.

reactant | 1,7,7-trimethylbicyclo[4.4.0]decan-3-ol | CC12CC(CCC2C(CCC1)(C)C)O | C13H24O
reactant | methylethylketone | CC(=O)CC | C4H8O
reactant | aluminium isopropoxide | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,7,7-trimethylbicyclo[4.4.0]decan-3-one | CC12CC(CCC2C(CCC1)(C)C)=O | C13H22O
